US09403810B2
Step 7: [5-(4-Isopropoxycyclohex-1-en-1-yl)-4-methylisoxazole-3-carboxylic acid]
To a stirred solution of [ethyl 5-(4-isopropoxycyclohex-1-en-1-yl)-4-methylisoxazole-3-carboxylate] (393 mg, 1.340 mmol) in THF (3 mL) and Ethanol (3 mL), 2M NaOH (aq) (4.179 ml, 8.36 mmol) was added. The reaction mixture was stirred at room temperature. Upon completion the resulting mixture was poured into water (20 mL) and the pH adjusted to pH 6 with the addition of 1M HCl (aq). The aqueous was extracted with EtOAc (30 mL) and the organic extracts were washed with brine (20 mL), dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound;

reactant | ethyl 5-(4-isopropoxycyclohex-1-en-1-yl)-4-methylisoxazole-3-carboxylate | C(C)(C)OC1CC=C(CC1)C1=C(C(=NO1)C(=O)OCC)C | C16H23NO4
reactant | NaOH | 8.36 mmol, 2M, 4.179 ml | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Ethanol | 3 mL | C(C)O | C2H6O
product | 5-(4-Isopropoxycyclohex-1-en-1-yl)-4-methylisoxazole-3-carboxylic acid | C(C)(C)OC1CC=C(CC1)C1=C(C(=NO1)C(=O)O)C | C14H19NO4
